US09055749B2
4-bromo-2,6-bis(trifluoromethyl)pyridine (1.53 g), (3,3,3-trifluoroprop-1-en-2-yl)boronic acid (purity: 40%, 2.00 g) and potassium carbonate (1.58 g) were dissolved in the mixed solvent of THF and water, which was then degassed three times. To the solution was added dichlorobis(triphenylphosphine) palladium (II) (0.07 g), and the mixture was heated to reflux for 3 hours under argon atmosphere. The mixture was cooled to room temperature and then poured into water, which was then extracted twice with pentane. The organic layer was combined, which was then washed with water and dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the solvent was distilled away under reduced pressure, and the residue was then purified by silica gel chromatography to obtain 2,6-bis(trifluoromethyl)-4-(3,3,3-trifluoroprop-1-en-2-yl)pyridine (1.59 g) at a yield of 98%.

reactant | 4-bromo-2,6-bis(trifluoromethyl)pyridine | 1.53 g | BrC1=CC(=NC(=C1)C(F)(F)F)C(F)(F)F | C7H2BrF6N
reactant | (3,3,3-trifluoroprop-1-en-2-yl)boronic acid | 2.00 g | FC(C(=C)B(O)O)(F)F | C3H4BF3O2
reactant | potassium carbonate | 1.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2,6-bis(trifluoromethyl)-4-(3,3,3-trifluoroprop-1-en-2-yl)pyridine | 1.59 g, yield of 98% | FC(C1=NC(=CC(=C1)C(=C)C(F)(F)F)C(F)(F)F)(F)F | C10H4F9N
